US06919356B2
Part F: Preparation of (5-acetyl-4-methyl-thiazol-2-yl)-carbamic acid phenyl ester
Sodium hydride (60% dispersion in mineral oil, 3.07 g, 77 mmol) was washed twice with hexane and suspended in N,N-dimethylformamide. 2-Amino-5-acetyl-4-methylthiazole (10.0 g, 64 mmol) was added with stirring and cooling on an ice bath. Stirring was continued until the sodium hydride was consumed. Diphenyl carbonate (34 g, 160 mmol) was added and the mixture was stirred for 30 minutes at room temperature. The solvent was removed under vacuum to yield a brown residue, which was dissolved in chloroform and washed successively with 0.5N aqueous hydrochloric acid, twice with water and finally with saturated aqueous sodium chloride. The aqueous phases were back extracted twice with chloroform. The combined organic fractions were dried over sodium sulfate and concentrated under vacuum to give a white solid. This was chromatographed on silica gel, eluting with 15%-70% ethyl acetate in hexane, to give a white solid (15.0 g, 85%). 1H NMR (300 MHz, CDCl3) δ11.42 (bs, 1H), 7.47-7.40 (m, 2H), 7.33-7.27 (m, 1H), 7.22-7.18 (m, 2H), 2.72 (s, 3H), 2.50 (s, 3H). Mass spec (ES+) m/z 277.1 (M+H+).

reactant | Sodium hydride | 77 mmol, 3.07 g | [H-].[Na+]
reactant | 2-Amino-5-acetyl-4-methylthiazole | 64 mmol, 10.0 g | NC=1SC(=C(N1)C)C(C)=O | C6H8N2OS
reactant | Diphenyl carbonate | 160 mmol, 34 g | C(OC1=CC=CC=C1)(OC1=CC=CC=C1)=O | C13H10O3
solvent | hexane | CCCCCC | C6H14
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | (5-acetyl-4-methyl-thiazol-2-yl)-carbamic acid phenyl ester | 15.0 g, 85% | C1(=CC=CC=C1)OC(NC=1SC(=C(N1)C)C(C)=O)=O | C13H12N2O3S
